US06255496B1
N-Hexyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine
N-[2-[4-(3,3-Dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine (500 mg, 1.05 mmol) and 1-iodohexane (0.186 ml, 1.26 mmol) were reacted as described in the preparation of N-propyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine and afforded the title compound (390 mg, g, 67%) as a liquid.

reactant | N-[2-[4-(3,3-Dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine | 1.05 mmol, 500 mg | COC(CCC1=CC=C(OCCNCCCCCCCCCCCC)C=C1)(C(F)(F)F)OC | C26H44F3NO3
reactant | 1-iodohexane | 1.26 mmol, 0.186 ml | ICCCCCC | C6H13I
reactant | N-propyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine | C(CC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCCCCCCCCCC | C29H50F3NO3
product | N-Hexyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine | 390 mg, 67% | C(CCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCCCCCCCCCC | C32H56F3NO3
